US09056859B2
A mixture of 5-[2-(4-{[3-iodo-4-(1H-tetrazol-1-yl)phenyl]acetyl}piperazin-1-yl)ethyl]-2-benzofuran-1(3H)-one (190 mg, 034 mmol) and CuCN (47 mg, 0.52 mmol) in 2 ml of anhydrous DMF was heated to 110° C. under N2 for 30 min. The reaction was cooled to ambient temperature, and then 15 ml of water was added. Extracted with DCM and the organic layer was dried over anhydrous sodium sulfate and concentrated. The crude product was purified via prep-TLC to afford 5-(2-oxo-2-{4-[2-(1-oxo-1,3-dihydro-2-benzofuran-5-yl)ethyl]piperazin-1-yl}ethyl)-2-(1H-tetrazol-1-yl)benzonitrile. 1H-NMR (400 MHz, CD3CN) δ ppm 9.36 (s, 1H), 7.85 (s, 1H), 7.72˜7.79 (m, 3H), 7.44˜7.50 (m, 2H), 5.30 (s, 2H), 3.87 (s, 2H), 2.49 (t, J=7.5 Hz, 21H), 2.64 (t, J=7.2 Hz, 2H), 2.65˜2.70 (m, 2H), 2.46˜2.53 (m, 4H).

reactant | 5-[2-(4-{[3-iodo-4-(1H-tetrazol-1-yl)phenyl]acetyl}piperazin-1-yl)ethyl]-2-benzofuran-1(3H)-one | 190 mg | IC=1C=C(C=CC1N1N=NN=C1)CC(=O)N1CCN(CC1)CCC1=CC2=C(C(OC2)=O)C=C1 | C23H23IN6O3
reactant | CuCN | 0.52 mmol, 47 mg | C(#N)[Cu]
reactant | water | 15 ml | O | H2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 5-(2-oxo-2-{4-[2-(1-oxo-1,3-dihydro-2-benzofuran-5-yl)ethyl]piperazin-1-yl}ethyl)-2-(1H-tetrazol-1-yl)benzonitrile | O=C(CC=1C=CC(=C(C#N)C1)N1N=NN=C1)N1CCN(CC1)CCC1=CC2=C(C(OC2)=O)C=C1 | C24H23N7O3
